US09302991B2
<Step-1>: 6-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (single enantiomer)
The title compound is prepared in 89% yield (175 mg, a white solid) from (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (148 mg, 0.58 mmol, Amine-1, single enantiomer) and 6-aminopyrimidine-4-carboxylic acid (80 mg, 0.58 mmol) by the similar manner in Step-1 of Example 8.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.58 mmol, 148 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 6-aminopyrimidine-4-carboxylic acid | 0.58 mmol, 80 mg | NC1=CC(=NC=N1)C(=O)O | C5H5N3O2
product | 6-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 89% yield | NC1=CC(=NC=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C14H14F3N5O2
